.include pmos_nmos_3p3_wrapper.spice
* Auto TB for manf_edge
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from manf.ext - technology: gf180mcuC

.subckt manf_edge vreg gp op im x y ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 hi bp 0.28fF
C1 vreg vdd 0.22fF
C2 hi vreg 0.11fF
C3 bp vreg 0.23fF
C4 vreg gp 1.01fF
C5 hih vdd 0.45fF
C6 vreg gnd 0.44fF
C7 bp gnd 4.35fF
C8 vdd gnd 4.01fF
C9 lo gnd 0.84fF
C10 hi gnd 0.46fF
C11 hih gnd 0.46fF
.ends

.subckt manf_cell inl inr out gp vreg op im x y ip om vdd gnd bp
X0 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X1 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 d2 inr out gnd nmos_3p3 w=1.8u l=0.6u
X4 d1 inl gnd gnd nmos_3p3 w=1.8u l=0.6u
X5 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X6 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X7 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X8 gnd inr d2 gnd nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 gnd nmos_3p3 w=1.8u l=0.6u
X10 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X11 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
C0 vdd gp 0.66fF
C1 inl inr 0.60fF
C2 vreg gp 1.98fF
C3 inr bp 0.32fF
C4 inr om 0.18fF
C5 inr op 0.20fF
C6 inl out 0.17fF
C7 bp out 0.15fF
C8 out om 0.11fF
C9 inl bp 0.32fF
C10 inl om 0.18fF
C11 vreg out 0.78fF
C12 vreg bp 0.92fF
C13 vdd vreg 1.41fF
C14 out op 0.11fF
C15 inl op 0.20fF
C16 inr out 0.20fF
C17 out gnd 1.69fF
C18 inr gnd 2.35fF
C19 inl gnd 2.36fF
C20 vreg gnd 0.72fF
C21 gp gnd 1.56fF
C22 bp gnd 6.58fF
C23 vdd gnd 6.08fF
C24 d2 gnd 0.18fF
C25 d1 gnd 0.18fF
.ends

.subckt manf ip im op om vdd gp bp vreg gnd
Xmanf_edge_0 vreg gp op im x y ip om vdd gnd bp manf_edge
Xmanf_edge_1 vreg gp op im x y ip om vdd gnd bp manf_edge
Xmanf_cell_0 im y op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_2 om x x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_1 y ip om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_3 x op x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_4 x y y gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_5 ip y om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_6 y im op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_9 im y op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_10 y ip om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_11 om x x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_12 x op x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_13 x y y gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_14 ip y om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_16 y im op gp vreg op im x y ip om vdd gnd bp manf_cell
C0 vreg x 0.12fF
C1 ip om 0.91fF
C2 y ip 0.97fF
C3 x om 0.29fF
C4 op om 0.23fF
C5 x y 0.17fF
C6 op y 0.63fF
C7 op im 0.33fF
C8 vreg gp -1.04fF
C9 gp vdd 0.20fF
C10 x ip 0.21fF
C11 op ip 0.19fF
C12 op x 0.95fF
C13 vreg y 0.11fF
C14 y om 0.65fF
C15 om im 0.29fF
C16 y im 0.20fF
C17 vreg vdd 0.35fF
C18 bp gnd 90.32fF
C19 vdd gnd 79.79fF
C20 om gnd 26.26fF
C21 ip gnd 19.49fF
C22 y gnd 35.73fF
C23 x gnd 31.14fF
C24 im gnd 20.25fF
C25 op gnd 26.36fF
C26 vreg gnd 3.94fF
C27 gp gnd 19.62fF
.ends



Vdd vdd 0 DC 1.8
Vss gnd 0 DC 0
X1 vreg gp op im x y ip om vdd gnd bp manf_edge
.op
.control
op
.endc
.end
